US07585868B2
Synthesis of 5-amino-3-(3-ethoxy-4-methoxyphenyl)-1-isopropyl-1H-pyrazole-4-carbonitrile (ZK303).
2-((3-ethoxy-4-methoxyphenyl)(methoxy)methylene)malononitrile (200 mg, 0.78 mmol), isopropylhydrazine hydrogen chloride (86 mg, 0.78 mmol), and triethylamine (0.10 mL, 0.78 mmol) were combined in ethanol (5 mL) and heated to reflux for 90 minutes. The reaction was then cooled to RT, water was added and the aqueous phase was extracted three times with EtOAc. The organic phase was concentrated and carried onto the next step without further characterization. ESI-MS (M+H)+ m/z calcd 301.1, found 301.0

reactant | 2-((3-ethoxy-4-methoxyphenyl)(methoxy)methylene)malononitrile | 0.78 mmol, 200 mg | C(C)OC=1C=C(C=CC1OC)C(=C(C#N)C#N)OC | C14H14N2O3
reactant | isopropylhydrazine hydrogen chloride | 0.78 mmol, 86 mg | Cl.C(C)(C)NN
reactant | triethylamine | 0.78 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-amino-3-(3-ethoxy-4-methoxyphenyl)-1-isopropyl-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1C(C)C)C1=CC(=C(C=C1)OC)OCC)C#N | C16H20N4O2
